US06300352B1
a) 2-(3-Bromophenyl)-N-methyl-acetamide
A solution of 3-bromophenyl acetic acid (2.15 g), a tetrahydrofuran solution of methyl amine (6 ml, 2M), dimethylaminopyridine (1.32 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.06 g) in dichloromethane was stirred at room temperature for 16 hrs. The organic solution was washed thrice with 2M hydrochloric acid solution, dried over magnesium sulphate, filtered and evaporated to afford a solid (1.86 g).

reactant | 3-bromophenyl acetic acid | 2.15 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | methyl amine | 2M, 6 ml | CN | CH5N
reactant | dimethylaminopyridine | 1.32 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.06 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-N-methyl-acetamide | 1.86 g | BrC=1C=C(C=CC1)CC(=O)NC | C9H10BrNO
